US06194406B1
4-(1-(4-Fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt
Combine 1-(t-butoxycarbonyl)-4-(1-(4-fluorobenzyl-1H-benzimidazol-2-yl)[1,4]diazepane (2.50 g, 5.89 mmol), aqueous hydriodic acid (5 mL, 57%), and ethanol (10 mL). Heat to reflux. After 1 hour, cool to ambient temperature and pour the reaction mixture into diethyl ether (450 mL) and stir to give a solid. After 1 hour, collect the solid by filtration, rinse with diethyl ether, and dry in vacuo to give the title compound: Rf=0.16 (silica gel, dichloromethane/methanol/concentrated aqueous ammonia 90/10/0.1).

reactant | 1-(4-fluorobenzyl-1H-benzimidazol-2-yl)[1,4]diazepane | 5.89 mmol, 2.50 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)N3CCNCCC3)C=C1 | C19H21FN4
reactant | hydriodic acid | 5 mL | I | HI
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | diethyl ether | 450 mL | C(C)OCC | C4H10O
product | 4-(1-(4-Fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt | I.FC1=CC=C(CN2C(=NC3=C2C=CC=C3)N3CCNCCC3)C=C1 | InChI=1S/C19H21FN4.HI/c20-16-8-6-15(7-9-16)14-24-18-5-2-1-4-17(18)22-19(24)23-12-3-10-21-11-13-23;/h1-2,4-9,21H,3,10-14H2;1H
